US06518273B1
1,1-Dimethylethyl 4-(3-Hydroxyphenyl)-1-piperazinecarboxylate
A slurry of palladium hydroxide on carbon (330 mg) in methanol (10 mL) was added to a solution of 1,1-dimethylethyl 4-[3-(phenylmethoxy)phenyl]-1-piperazinecarboxylate (Description 20, 3.25 g, 8.8 mmol) in ethyl acetate/methanol (1:9) and the mixture was shaken under an atmosphere of hydrogen (40 psi) for 48 h. The mixture was filtered through celite and the solvent was evaporated under reduced pressure to give the title compound (2.28 g, 93%). 1H NMR (360 MHz, CDCl3) δ1.48 (9H, s), 3.10-3.13 (4H, m), 3.54-3.57 (4H, m), 6.34 (1H, dd, J 7.9, 2.2 Hz), 6.41 (1H, t, J 2.0 Hz), 6.34 (1H, dd, J 8.3, 2.2 Hz), and 7.11 (1H, t, J 7.9 Hz).

reactant | 1,1-dimethylethyl 4-[3-(phenylmethoxy)phenyl]-1-piperazinecarboxylate | 8.8 mmol, 3.25 g | C1(=CC=CC=C1)COC=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C22H28N2O3
solvent | methanol | 10 mL | CO | CH4O
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
catalyst | palladium hydroxide on carbon | 330 mg | [OH-].[OH-].[Pd+2]
product | 1,1-Dimethylethyl 4-(3-Hydroxyphenyl)-1-piperazinecarboxylate | 2.28 g, 93% | OC=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H22N2O3
